US06914074B2
8-Chloro-2-methoxynaphthalene
CuCl2 (4.6 g, 24.6 mmol) and t-butyl nitrite (4.46 g, 43.3 mmol) were added to acetonitrile (125 mL) at 0° C. To this mixture was slowly added a solution of 7-methoxynaphthylamine (4.99 g, 28.8 mmol) in acetonitrile (25 mL). The reaction was allowed to warm to room temperature, stirred with HCl (400 mL of 2N solution) and extracted with ethyl acetate (3×200 mL). The combined organic layers were washed with 2N HCl, dried over sodium sulfate, filtered, evaporation of the solvent, and purification on a silica column (hexanes) yielded 2.27 g (41%) of an orange liquid. An analytical sample was further purified by reverse phase preparative HPLC to yield the title compound as a yellow solid: mp 32-34° C.;1H NMR (CDCl3): δ 3.98 (3H, s), 7.20 (1H, dd, J=2.52 Hz, J=8.96 Hz), 7.22-7.27 (1H, m), 7.52 (1H, d, J=2.47 Hz), 7.55 (1 h, d, J=7.47 Hz), 7.69 (1H, d, J=8.15 Hz), 7.75 (1H, d, J=8.95 Hz); MS m/z1911193 (M−H)−.

reactant | t-butyl nitrite | 43.3 mmol, 4.46 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 7-methoxynaphthylamine | 28.8 mmol, 4.99 g | COC1=CC=C2C=CC=C(C2=C1)N | C11H11NO
reactant | HCl | 2N, 400 mL | Cl | ClH
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | acetonitrile | 125 mL | C(C)#N | C2H3N
product | 8-Chloro-2-methoxynaphthalene | 2.27 g, 41% | ClC=1C=CC=C2C=CC(=CC12)OC | C11H9ClO
